US08198311B2
To a solution of 1-tert-butyl-3-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylhex-5-enyl)urea (20 mg, 0.046 mmol) in anhydrous DCE (2 mL) at −10 C was added diethylzinc solution (0.46 mL, 0.46 mmol) and methyldiiodide (245 mg, 0.92 mmol) under nitrogen. Allowed reaction mixture to warm to RT and stirred overnight. The mixture was poured into sat NH4Cl, extracted with DCM (2×10 mL), dried (Na2SO4) and purified by HPLC to give 11 mg (50% yield) of 1-tert-butyl-3-(4-cyclopropyl-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylbutyl)urea. MS found: (M+H)+=451.

reactant | 1-tert-butyl-3-(3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylhex-5-enyl)urea | 0.046 mmol, 20 mg | C(C)(C)(C)NC(=O)NCC(C(CC=C)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(C)C | C26H33FN4O
reactant | diethylzinc | 0.46 mmol, 0.46 mL | C(C)[Zn]CC
reactant | NH4Cl | [NH4+].[Cl-]
solvent | DCE | 2 mL | ClCCCl | C2H4Cl2
product | 1-tert-butyl-3-(4-cyclopropyl-3-(1-(4-fluorophenyl)-1H-indazol-5-yl)-2,2-dimethylbutyl)urea | 11 mg, 50% yield | C(C)(C)(C)NC(=O)NCC(C(CC1CC1)C=1C=C2C=NN(C2=CC1)C1=CC=C(C=C1)F)(C)C | C27H35FN4O
